US03987047
11-Hydroxy-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid phenyl ester was prepared analogous to Example 101 from 2-benzyl-11-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and phenyl chloroformate.

reactant | 2-benzyl-11-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | C(C1=CC=CC=C1)N1CC=2C(=NC=3C=CC=CC3C2O)CCC1 | C20H20N2O
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | 11-Hydroxy-2,3,4,5-tetrahydro-1H-2-azepino[4,3-b]quinoline-carboxylic acid phenyl ester | Yield: 51% | C1(=CC=CC=C1)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2O)CCC1 | C20H18N2O3
